US07601729B2
1,1-Dimethylethyl 5-(4-biphenylyl)-2-(2-hydroxyethyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate
A solution of tetra-n-butylammonium fluoride (1.0 M in THF; 6.2 mL, 6.2 mmol) was added dropwise over 15 min to a stirred solution of 1,1-dimethylethyl 5-(4-biphenylyl)-2-(2-{[(1,1-dimethylethyl) (dimethyl)silyl]oxy}ethyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate (3.39 g, 5.61 mmol) in tetrahydrofuran (20 mL) at 0° C. under nitrogen. The reaction was allowed to warm to room temperature at which stirring was continued for 2 h. The volatiles were evaporated and the residue partitioned between ethyl acetate (100 mL) and water (100 mL). The phases were separated and the aqueous layer was washed with ethyl acetate (3×100 mL). The organic layers were combined, washed with brine (100 mL), dried (magnesium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (50% to 75% diethyl ether: cyclohexane) to give the title compound (1.6 g, 58%) as a yellow oil which was a mixture of diastereomers. LC/MS: 3.98 min; z/e 491, calcd (M+1) 491. 1H NMR (400 MHz: CDCl3): 7.55 (2H), 7.45 (4H), 7.30 (5H), 6.90 (2H), 4.50 (2H), 3.80 (3H), 3.65 (2H), 2.80 (2H), 2.65 (1H major), 2.05 (1H minor), 1.85 (3H), 1.60-1.35 (11H).

reactant | tetra-n-butylammonium fluoride | 6.2 mmol, 1.0 M, 6.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,1-dimethylethyl 5-(4-biphenylyl)-2-(2-{[(1,1-dimethylethyl) (dimethyl)silyl]oxy}ethyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate | 5.61 mmol, 3.39 g | C1(=CC=C(C=C1)CCC(C(C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C)OCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C37H52O5Si
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 5-(4-biphenylyl)-2-(2-hydroxyethyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate | 1.6 g, 58% | C1(=CC=C(C=C1)CCC(C(C(=O)OC(C)(C)C)CCO)OCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C31H38O5
